US09382226B2
Step D. N-cyclopropyl-5-fluoro-2-nitroaniline
2,4-Difluoronitrobenzene (1.00 g, 6.29 mmol), potassium fluoride (0.365 g, 6.29 mmol), potassium carbonate (0.869 g, 6.29 mmol), and cyclopropylamine (0.52 mL, 7.54 mmol) were added to a vial and heated in a microwave at 90° C. for 10 min. The reaction was then diluted with dichloromethane, washed with water and brine, dried over magnesium sulfate, and concentrated to provide the title compound: LCMS m/z 196.95 [M+H]+; 1H NMR (500 MHz, CDCl3) δ 8.20 (dd, J=9.5, 6.0 Hz, 2 H), 6.95 (dd, J=11.4, 2.6 Hz, 1 H), 6.43-6.39 (m, 1 H), 2.58-2.53 (m, 1 H), 0.96-0.92 (m, 2 H), 0.69-0.66 (m, 2 H).

reactant | 2,4-Difluoronitrobenzene | 6.29 mmol, 1.00 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | potassium fluoride | 6.29 mmol, 0.365 g | [F-].[K+]
reactant | potassium carbonate | 6.29 mmol, 0.869 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclopropylamine | 7.54 mmol, 0.52 mL | C1(CC1)N | C3H7N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-cyclopropyl-5-fluoro-2-nitroaniline | C1(CC1)NC1=C(C=CC(=C1)F)[N+](=O)[O-] | C9H9FN2O2
